US04764462
The ethanolamine was dissolved in dried N,N-di-methyl formamide (DMF) and chilled in an ice bath. The nicotinate derivative, also dissolved in DMF, was added to the DMF-amine mixture, dropwise under a nitrogen atmosphere. As the nicotinate derivative was added, the mixture turned milky and was slurried for at least one half hour. The milky substance was the N-hydroxy-succinamide precipitating, which was filtered off. The DMF-mixture was washed with ether to remove any precipitant. The solvent mixture was removed under high vaccum. The oily residue was triturated with ether, yielding a precipitant, N-(2-hydroxyethyl)-nicotinamide, which was recrystallized from ethyl acetate/petroleum ether. This compound had a melting point of 86°-87° C.; and Rf value of 0.30 (TLC: silica: chloroform/methanol (10:1)); and a yield of 73%.

reactant | ethanolamine | C(O)CN | C2H7NO
reactant | nicotinate | C(C1=CN=CC=C1)(=O)[O-]
reactant | N-hydroxy-succinamide | ONC(CCC(=O)N)=O | C4H8N2O3
solvent | N,N-di-methyl formamide | CN(C=O)C | C3H7NO
product | N-(2-hydroxyethyl)-nicotinamide | yield of 73% | OCCNC(C1=CN=CC=C1)=O | C8H10N2O2
